US07820683B2
(2R)-2-[(4-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]-N-(2-hydroxyethyl)-N-methylpropanamide
Using the same procedure as in Example 26, methyl (2R)-2-[(4-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate (205 mg, 0.43 mmol) was reacted with 2-methylaminoethanol (326 mg, 4.3 mmol) to give the title compound as a white solid (124 mg, 56%) except that the reaction mixture was heated at 45° C. for 24 hours and the crude material was purified on an HPLC column (C18, 5 microns, 19 mm diameter, 100 mm length) of a preparative HPLC-MS system eluting with a mixture of water and acetonitrile containing 2 g/l of ammonium carbonate (gradient). NMR Spectrum (2 rotamers) 1.59-1.62 (m, 3H), 3.18 and 2.93 (s, 3H), 3.53-3.65 (m, 4H), 5.00 and 4.74 (t, 1H), 5.71 (s, 2H), 5.90 and 5.81 (q, 1H), 7.05-7.07 (m, 3H), 7.30-7.37 (m, 3H), 7.71-7.77 (m, 2H), 7.82-7.88 (m, 1H), 8.17 (s, 1H), 8.51 (s, 1H), 8.55 and 8.58 (s, 1H), 11.10 (br s, 1H); Mass spectrum MH+ 515.

reactant | methyl (2R)-2-[(4-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate | 0.43 mmol, 205 mg | FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NC3=CC=CC(=C23)O[C@@H](C(=O)OC)C)C=CC1 | C26H22FN5O3
reactant | 2-methylaminoethanol | 4.3 mmol, 326 mg | CNCCO | C3H9NO
product | (2R)-2-[(4-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]-N-(2-hydroxyethyl)-N-methylpropanamide | 124 mg, 56% | FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NC3=CC=CC(=C23)O[C@@H](C(=O)N(C)CCO)C)C=CC1 | C28H27FN6O3
